US07985803B2
To a monomer mixture including 89.2 parts by mass of methyl methacrylate, 5.8 parts by mass of methyl acrylate and 5 parts by mass of xylene, 0.0294 part by mass of 1,1-di-t-butylperoxy-3,3,5-trimethyl cyclohexane and 0.115 part by mass of n-octylmercaptan were added and uniformly mixed therein. The solution was continuously supplied to a sealed type pressure resistant reactor having an inner volume of 10 L. Polymerization reaction is carried out at an average temperature of 130° C. for an average retention time of two hours while stirring, and then the reaction solution was continuously transferred to a storage tank with deaeration equipment connected to the reactor to remove volatile portions therefrom. The melted solution was further continuously transferred to an extruder to obtain pellets of a (methyl methacrylate-methyl acrylate) (b-1) copolymer.

reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | n-octylmercaptan | C(CCCCCCC)S | C8H18S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | methyl methacrylate methyl acrylate | C(C(=C)C)(=O)OC.C(C=C)(=O)OC | InChI=1S/C5H8O2.C4H6O2/c1-4(2)5(6)7-3;1-3-4(5)6-2/h1H2,2-3H3;3H,1H2,2H3
